US07081497B2
The Production of 1,6-bis(4-fluorophenyl)perfluorohexane
26.64 g of p-fluoroiodobenzene, 100 ml of DMSO and 15.24 g of copper powder were put in a flask under an atmosphere of nitrogen to be sufficiently stirred at a temperature of 110° C. Next, 30.46 g of 1,6-diiodoperfluorohexane was slowly dropped and stirred at a temperature of 120° C. for 20 hours. Then, the reaction solution was filtered so as to remove the unreacted copper, and was dropped into an aqueous solution containing a small quantity of NaCl. Then, the resulting deposits were filtered. The deposits were dissolved in acetone to be filtered and thereafter distill out the acetone. The residue was dissolved in methanol to add water and deposits were filtered. The deposits were distilled at a reduced pressure (155° C., 5 mmHg), thereby obtaining 20 g of a colorless solid.

reactant | p-fluoroiodobenzene | 26.64 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | 1,6-diiodoperfluorohexane | 30.46 g | IC(C(C(C(C(C(I)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C6F12I2
catalyst | copper | 15.24 g | [Cu] | Cu
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 1,6-bis(4-fluorophenyl)perfluorohexane | 20 g | FC1=CC=C(C=C1)C(C(C(C(C(C(C1=CC=C(C=C1)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C18H8F14
